US05270309
Using the method described in Example 18a with 4-methylthioaniline (20 g) and dimethyl-acetylene dicarboxylate (20.21 g) as reagents gave methyl 6-methylthio-4-oxo-1,4-dihydroquinoline-2-carboxylate (10.12 g), m.p. 264°-266° C. δ (360 MHz, DMSO-d6), 2.55 (3H, s, CH3S), 3.96 (3H, s, CH3O), 6.68 (1H, s, 3-H), 7.64 (1H, dd, 7-H), 7.83 (1H, d, 5-H) and 7.89 (1H, d, 8-H).

reactant | 4-methylthioaniline | 20 g | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | dimethyl-acetylene dicarboxylate | 20.21 g | COC(=O)C#CC(=O)OC | C6H6O4
product | methyl 6-methylthio-4-oxo-1,4-dihydroquinoline-2-carboxylate | 10.12 g | CSC=1C=C2C(C=C(NC2=CC1)C(=O)OC)=O | C12H11NO3S
